US04469698
(1) 1-isopropyl barbituric acid
13.8 g (0.6 mole) of sodium are dissolved in 250 ml of anhydrous ethanol. 61.2 g (0.46 mole) of diethyl malonate and 47.3 g of isopropyl urea (0.46 mole) are added to the resulting solution. The mixture thus formed is heated for 7.5 hours to 120° C. (temperature of the bath). After cooling, a solution of concentrated HCl and water (1:4) is slowly added until the precipitate formed during the reaction has dissolved. The resulting solution is evaporated until a precipitate appears and is then left standing at 0° C. The precipitate is then filtered, washed with cold water and dried, giving 75 g of colourless crystals.

reactant | sodium | 0.6 mole, 13.8 g | [Na] | Na
reactant | diethyl malonate | 0.46 mole, 61.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | isopropyl urea | 0.46 mole, 47.3 g | C(C)(C)NC(=O)N | C4H10N2O
reactant | HCl | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-isopropyl barbituric acid | 75 g | C(C)(C)N1C(=O)NC(=O)CC1=O | C7H10N2O3
